US03948966
100 g of anhydrous calcium chloride powder was added to 100 g of dimethylformamide with agitation, and the mixture was heated to form a paste. The paste was evaporated to dryness under a reduced pressure and below 50°C. to obtain a coarse white crystalline powder. Analysis showed that the powder was a calcium chloride-dimethylformamide compound. 20 g of this white crystalline powder was dissolved in 300 g of dimethylformamide, and 126.6 g of benzyl chloride was added to the solution and 75 g of sodium cyanate powder (having a purity of 98 %) was added to the solution with agitation, at an elevated temperature of 100°C., over a period of 4 hours. When 5 hours had passed from the start of the reaction, the reaction mixtures was treated under reduced pressure to recover dimethylformamide by distillation, and the residue was extracted with benzene and the benzene extract was distilled under reduced pressure to obtain 113 g of benzyl isocyanate (the yield being about 85 %). When the above reaction was repeated without adding 20 g of the white crystalline powder, tribenzyl isocyanurate was obtained in a yield of about 70 %, instead of benzyl isocyanate.

reactant | calcium chloride | 100 g | [Cl-].[Ca+2].[Cl-]
reactant | calcium chloride dimethylformamide | [Cl-].[Ca+2].[Cl-].CN(C=O)C
reactant | benzyl chloride | 126.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium cyanate | 75 g | [O-]C#N.[Na+]
solvent | dimethylformamide | 300 g | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 g | CN(C=O)C | C3H7NO
product | benzyl isocyanate | 113 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
